US08791161B2
4-chloro-N-{5-chloro-2-[(1H-imidazol-2-ylmethyl)thio]phenyl}-3-(trifluoromethyl)benzenesulfonamide
Following General Procedure A, B, the title compound was prepared from 2-Amino-4-chloro-benzenethiol, 2-chloromethyl-1H-imidazole and 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride.

reactant | 2-Amino-4-chloro-benzenethiol | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | 2-chloromethyl-1H-imidazole | ClCC=1NC=CN1 | C4H5ClN2
reactant | 4-chloro-3-trifluoromethyl-benzenesulfonyl chloride | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
product | 4-chloro-N-{5-chloro-2-[(1H-imidazol-2-ylmethyl)thio]phenyl}-3-(trifluoromethyl)benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)Cl)SCC=1NC=CN1)C(F)(F)F | C17H12Cl2F3N3O2S2
